US04670604
18 ml of N sodium hydroxide solution are added to a solution of 7.95 g of methyl N-{{4-{3-[4-acetyl-3-hydroxy-2-(3,3,3-trifluoropropyl)-phenoxy]-propoxy}-3-methoxy-phenyl}}-oxamate in 100 ml of methanol and the mixture is refluxed for 1 hour. The hot solution is then poured into 200 ml of 0.1N hydrochloric acid. The product which has precipitated out is filtered off, washed with water and dired over phosphorus pentoxide in a drying cabinet. The N-{{4-{3-[4-acetyl-3-hydroxy-2-(3,3,3-trifluoropropyl)-phenoxy]-propoxy}-3-methoxy-phenyl}}-oxamic acid thus obtained is dissolved hot again in 100 ml of methanol, and one equivalent of triethanolamine in 10 ml of methanol is added. After addition of 400 ml of ether, crystallisation starts. The triethanolammonium salt of N-{{4-{3-[4-acetyl-3-hydroxy-2-(3,3,3-trifluoropropyl)-phenoxy]-propoxy}-3-methoxy-phenyl}}-oxamic acid is thus obtained.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | methyl N-{{4-{3-[4-acetyl-3-hydroxy-2-(3,3,3-trifluoropropyl)-phenoxy]-propoxy}-3-methoxy-phenyl}}-oxamate | 7.95 g | C(C)(=O)C1=C(C(=C(OCCCOC2=C(C=C(C=C2)NC(C(=O)OC)=O)OC)C=C1)CCC(F)(F)F)O | C24H26F3NO8
reactant | hydrochloric acid | 0.1N, 200 ml | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
product | N-{{4-{3-[4-acetyl-3-hydroxy-2-(3,3,3-trifluoropropyl)-phenoxy]-propoxy}-3-methoxy-phenyl}}-oxamic acid | C(C)(=O)C1=C(C(=C(OCCCOC2=C(C=C(C=C2)NC(C(=O)O)=O)OC)C=C1)CCC(F)(F)F)O | C23H24F3NO8
